US07671063B2
A solution of 6-Allyloxy-2-aminophenyl-sulfonamide (38 mg, 0.166 mmol) and 4-chloro-2-(3,4-dimethoxy-phenylamino)pyrimidine (44.2 mg, 0.166 mmol) in 2-propanol (5 ml) and 1 N HCl (333 μl) is refluxed for 105 min. The reaction mixture is partitioned between ammonia (pH 10-11) and EtOAc. The organic layer is dried (Na2SO4) and concentrated. Precipitation with ether/hexanes gives the desired 2-Allyloxy-6-[2-(3,4-dimethoxy-phenylamino)-pyrimidin-4-ylamino]-benzenesulfonamide.

reactant | 6-Allyloxy-2-aminophenyl-sulfonamide | 0.166 mmol, 38 mg | C(C=C)OC1=CC=CC(=C1S(=O)(=O)N)N | C9H12N2O3S
reactant | 4-chloro-2-(3,4-dimethoxy-phenylamino)pyrimidine | 0.166 mmol, 44.2 mg | ClC1=NC(=NC=C1)NC1=CC(=C(C=C1)OC)OC | C12H12ClN3O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
solvent | HCl | 1 N, 333 μl | Cl | ClH
product | 2-Allyloxy-6-[2-(3,4-dimethoxy-phenylamino)-pyrimidin-4-ylamino]-benzenesulfonamide | C(C=C)OC1=C(C(=CC=C1)NC1=NC(=NC=C1)NC1=CC(=C(C=C1)OC)OC)S(=O)(=O)N | C21H23N5O5S
